US07384967B2
(3-Cyclopentanecarbonyl-4-{3-[5-(pyridin-2-ylsulfanyl)-thiazol-2-yl]-ureido}-phenyl)-acetic acid ethyl ester (153 mg, 30%) was prepared from {4-[3-(5-bromo-thiazol-2-yl)-ureido]-3-cyclopentanecarbonyl-phenyl}-acetic acid ethyl ester (480 mg, 1 mmol) and 2-mercapto-pyridine (222 mg, 2 mmol) following the general procedure Q.

reactant | {4-[3-(5-bromo-thiazol-2-yl)-ureido]-3-cyclopentanecarbonyl-phenyl}-acetic acid ethyl ester | 1 mmol, 480 mg | C(C)OC(CC1=CC(=C(C=C1)NC(=O)NC=1SC(=CN1)Br)C(=O)C1CCCC1)=O | C20H22BrN3O4S
reactant | 2-mercapto-pyridine | 2 mmol, 222 mg | SC1=NC=CC=C1 | C5H5NS
product | (3-Cyclopentanecarbonyl-4-{3-[5-(pyridin-2-ylsulfanyl)-thiazol-2-yl]-ureido}-phenyl)-acetic acid ethyl ester | 153 mg, 30% | C(C)OC(CC1=CC(=C(C=C1)NC(=O)NC=1SC(=CN1)SC1=NC=CC=C1)C(=O)C1CCCC1)=O | C25H26N4O4S2
